US04596809
3,9-DIHYDRO-2-METHYLENE-9-PHENYL-FURO(2,3-b)-1,8-NAPHTHYRIDIN-4(2H)-ONE
A solution of 2 g. of 3,9-dihydro-2-(iodomethyl)-9-phenyl-furo(2,3-b)-1,8-naphthyridin-4(2H)-one in 4 g. of dry piperidine is stirred at room temperature for 72 hours. The reaction mixture is diluted with 80 ml. of water, filtered and the solids washed well with water. The aqueous filtrate is made strongly basic with sodium hydroxide solution and filtered. The combined solids are purified on a grade 62 silica gel column using 5 pts MeOH, 95 pts ethyl acetate as solvent. Fraction III is triturated with 2×50 ml. of hot isopropyl ether yielding the title compound, m.p. 259°-261° C.

reactant | 3,9-dihydro-2-(iodomethyl)-9-phenyl-furo(2,3-b)-1,8-naphthyridin-4(2H)-one | ICC1CC2=C(N(C3=NC=CC=C3C2=O)C2=CC=CC=C2)O1 | C17H13IN2O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 3,9-DIHYDRO-2-METHYLENE-9-PHENYL-FURO(2,3-b)-1,8-NAPHTHYRIDIN-4(2H)-ONE | C=C1CC2=C(N(C3=NC=CC=C3C2=O)C2=CC=CC=C2)O1 | C17H12N2O2
